US04426524
This reaction was conducted in the manner of Example 3, Step 2 using 1.5 g (0.009 mol) of 3-(2-furanyl)phenylmethanol, 0.7 g (0.009 mol) of pyridine, 50 mL of toluene, and 2.0 g (0.009 mol) of cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride. The crude oily product was subjected to distillation under reduced pressure to give 3.1 g of [3-(2-furanyl)phenyl]methyl cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate, b.p. 160° C./0.1 mm.

reactant | 3-(2-furanyl)phenylmethanol | 0.009 mol, 1.5 g | O1C(=CC=C1)C=1C=C(C=CC1)CO | C11H10O2
reactant | pyridine | 0.009 mol, 0.7 g | N1=CC=CC=C1 | C5H5N
reactant | cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarbonyl chloride | 0.009 mol, 2.0 g | ClC(=C[C@H]1C([C@H]1C(=O)Cl)(C)C)Cl | C8H9Cl3O
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | [3-(2-furanyl)phenyl]methyl cis-3-(2,2-dichloroethenyl)-2,2-dimethylcyclopropanecarboxylate | 3.1 g | ClC(=C[C@H]1C([C@H]1C(=O)OCC1=CC(=CC=C1)C=1OC=CC1)(C)C)Cl | C19H18Cl2O3
